US07754744B2
Step 2: 6-(Piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester dihydrochloride
A solution of 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester (1.65 g, 4.09 mmol) in THF (10 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 304.0 [M+H]+.

reactant | 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester | 4.09 mmol, 1.65 g | COC(C1=CN=C(C=C1C(F)(F)F)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H24F3N3O4
reactant | HCl | 4 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-(Piperidin-4-ylamino)-4-trifluoromethyl-nicotinic acid methyl ester dihydrochloride | Cl.Cl.COC(C1=CN=C(C=C1C(F)(F)F)NC1CCNCC1)=O | InChI=1S/C13H16F3N3O2.2ClH/c1-21-12(20)9-7-18-11(6-10(9)13(14,15)16)19-8-2-4-17-5-3-8;;/h6-8,17H,2-5H2,1H3,(H,18,19);2*1H
